* MCP6001 approximated model based on opa2344
* not be used by any commercial application
* results not validated by any test or calculus
* use at your risk
*****************************************************************************
* BEGIN MODEL MCP6001
* PINOUT        3   2   7  4  6
* PINOUT ORDER +IN -IN +V -V OUT
*
.SUBCKT MCP6001 3 2 7 4 6
*

*
R3 11 12 2
R4 13 12 2
R10 9 14 100
R11 15 16 100
R12 17 7 20
R13 4 18 20
R16 19 20 1.5E3
R17 21 22 20
R18 10 23 20
D5 6 7 DD
D6 4 6 DD
D7 24 0 DIN
D8 25 0 DIN
I8 0 24 0.1E-3
I9 0 25 0.1E-3
E2 10 0 4 0 1
E3 22 0 7 0 1
D9 26 0 DVN
D10 27 0 DVN
I10 0 26 0.2E-6
I11 0 27 0.2E-6
E4 28 2 26 27 0.3
G2 29 2 24 25 2.5E-7
R22 4 7 1E6
E5 30 0 22 0 1
E6 31 0 10 0 1
E7 32 0 33 0 1
R30 30 34 1E6
R31 31 35 1E9
R32 32 36 1E6
R33 0 34 100
R34 0 35 1E5
R35 0 36 100
E10 37 3 36 0 0.15
R36 38 33 1E3
R37 33 39 1E3
C6 30 34 0.2E-12
C7 31 35 5E-12
C8 32 36 1E-12
E11 40 37 35 0 0.3
E12 29 40 34 0 0.3
E14 41 10 22 10 0.5
D11 19 22 DD
D12 10 19 DD
R43 51 45 100
R44 52 43 100
G3 19 41 53 41 0.2E-3
R45 41 19 90E6
C12 20 6 21.8E-12
R46 10 47 2E3
R47 10 49 2E3
C13 47 49 18E-12
C14 29 0 2.7E-12
C15 28 0 2.7E-12
I21 29 0 0.2E-12
I22 28 0 0.2E-12
C16 6 0 1E-12
D13 43 8 DD
D14 54 45 DD
V18 29 48 0
R53 58 57 2
R54 58 60 2
R55 55 22 2K
R56 59 22 2K
C20 55 59 18P
V19 48 56 -200U
V20 22 62 1.3
G6 19 41 65 41 0.2M
I14 46 50 40E-6
E17 39 0 29 0 1
E18 38 0 2 0 1
I15 64 10 45E-6
R59 6 44 25
R60 42 6 25
C21 29 28 5.4E-12
E19 66 41 59 55 1
R61 66 65 10E3
C22 65 41 5E-12
E20 67 41 49 47 1
R62 67 53 10E3
C23 53 41 5E-12
G7 68 41 19 41 -1E-3
G8 41 69 19 41 1E-3
G9 41 70 50 10 1E-3
G10 71 41 22 46 1E-3
D17 71 68 DD
D18 69 70 DD
R66 68 71 100E6
R67 70 69 100E6
R68 71 22 1E3
R69 10 70 1E3
E23 22 51 22 71 1
E24 52 10 70 10 1
R70 69 41 1E6
R71 70 41 1E6
R72 41 71 1E6
R73 41 68 1E6
G11 7 4 72 0 -190E-6
I19 0 73 1E-3
D19 73 0 DD
V23 73 72 0.71
R74 0 72 1E6
R75 40 29 1E9
R76 37 40 1E9
R77 3 37 1E9
R78 2 28 1E9
R79 41 53 1E9
R80 41 65 1E9
R81 51 22 1E9
R82 10 52 1E9
R83 33 0 1E9
R85 63 12 3E3
E25 16 22 7 17 -3.1
E26 14 10 18 4 3.1
I20 7 4 88E-6
Q20 8 9 10 QN
Q15 54 15 22 QP
J1 22 29 22 JX
J2 22 28 22 JX
J3 28 10 28 JX
J4 29 10 29 JX
M1 42 43 18 18 NOUT L=3U W=800U
M2 44 45 17 17 POUT L=3U W=800U
M3 46 46 21 21 POUT L=3U W=800U
M4 47 48 11 11 PIN L=3U W=60U
M5 49 28 13 13 PIN L=3U W=60U
M8 50 50 23 23 NOUT L=3U W=800U
M16 55 56 57 57 NIN L=3U W=60U
M17 59 28 60 60 NIN L=3U W=60U
M18 61 62 63 63 PIN L=6U W=500U
M19 12 64 22 22 PIN L=6U W=500U
M21 58 61 10 10 NIN L=6U W=500U
M22 61 61 10 10 NIN L=6U W=500U
M23 64 64 22 22 PIN L=6U W=500U
.MODEL DD D
.MODEL QN NPN
.MODEL QP PNP
.MODEL JX NJF IS=1E-17
.MODEL DVN D KF=6.5E-16 IS=1E-16
.MODEL DIN D
.MODEL POUT PMOS KP=200U VTO=-0.7
+ LAMBDA=0.01
.MODEL NOUT NMOS KP=200U VTO=0.7
+ LAMBDA=0.01
.MODEL PIN PMOS KP=200U VTO=-0.7
.MODEL NIN NMOS KP=200U VTO=0.7
.ENDS
* END MODEL MCP6001